US07560558B2
(4,5-Dimethylfuran-2-yl)-(4-methylpyridin-3-yl)-methanone (150 mg), methanol (2 ml), and a 28% aqueous ammonia solution (2 ml) were placed in a sealed tube and was stirred at 160° C. overnight. The reaction solution was cooled to room temperature, and the solvent was then removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using hexane-acetone to give 5,6,4′-trimethyl-[2,3′]bipyridin-3-ol (30 mg, yield 20%).

reactant | (4,5-Dimethylfuran-2-yl)-(4-methylpyridin-3-yl)-methanone | 150 mg | CC=1C=C(OC1C)C(=O)C=1C=NC=CC1C | C13H13NO2
reactant | ammonia | 2 ml | N | H3N
solvent | methanol | 2 ml | CO | CH4O
product | 5,6,4′-trimethyl-[2,3′]bipyridin-3-ol | 30 mg, yield 20% | CC=1C=C(C(=NC1C)C=1C=NC=CC1C)O | C13H14N2O
